US07202312B2
Preparation of 5-butylnorbornene/5-norbornene-2-carboxylic acid butyl ester copolymer solution
5-Butylnorbornene (730 g) and 5-norbornene-2-carboxylic acid butyl ester (940 g) were added to a reactor at room temperature. Then, toluene (1,600 g) was added to the reactor. The air inside the reactor was replaced by nitrogen and the reactor was heated to 90° C. Then, palladium diacetate (0.21 g), dimethyl aniliniumtetrakis (pentafluorophenyl)borate (1.55 g) and tricylcohexylphosphine (0.27 g) dissolved in dichloromethyl were added to the reactor. Reaction was performed for 18 hours while stirring to obtain a polymer solution.

reactant | 5-Butylnorbornene | 730 g | C(CCC)C1C2C=CC(C1)C2 | C11H18
reactant | 5-norbornene-2-carboxylic acid butyl ester | 940 g | C(CCC)OC(=O)C1C2C=CC(C1)C2 | C12H18O2
reactant | dimethyl aniliniumtetrakis (pentafluorophenyl)borate | 1.55 g | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C[NH+](C1=CC=CC=C1)C
reactant | tricylcohexylphosphine | 0.27 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium diacetate | 0.21 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | toluene | 1,600 g | C1(=CC=CC=C1)C | C7H8
product | 5-butylnorbornene 5-norbornene-2-carboxylic acid butyl ester | C(CCC)C1C2C=CC(C1)C2.C(CCC)OC(=O)C1C2C=CC(C1)C2 | InChI=1S/C12H18O2.C11H18/c1-2-3-6-14-12(13)11-8-9-4-5-10(11)7-9;1-2-3-4-10-7-9-5-6-11(10)8-9/h4-5,9-11H,2-3,6-8H2,1H3;5-6,9-11H,2-4,7-8H2,1H3
